************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_425Lib
* Top Cell Name: xnor2
* View Name:     schematic
* Netlisted on:  Feb 27 09:13:01 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_425Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_425Lib
* Cell Name:    xnor2
* View Name:    schematic
************************************************************************

.SUBCKT xnor2 A B Z
*.PININFO A:I B:I Z:O
XI1 A Ab / inv
XI0 B Bb / inv
MM3 Z Bb net1 vdd! PMOS_VTL W=360.0n L=50n m=1
MM2 net1 B vdd! vdd! PMOS_VTL W=360.0n L=50n m=1
MM1 Z A net1 vdd! PMOS_VTL W=360.0n L=50n m=1
MM0 net1 Ab vdd! vdd! PMOS_VTL W=360.0n L=50n m=1
MM7 net21 Bb vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM6 net17 B vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM5 Z A net21 vss! NMOS_VTL W=180.0n L=50n m=1
MM4 Z Ab net17 vss! NMOS_VTL W=180.0n L=50n m=1
.ENDS

